US04369058
3-(3-tert-Butylureido)-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
To a solution of 3-isocyanato-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide prepared as in Example 3 was added 0.8 g of tert-butylamine at ambient temperature with stirring. After sixteen hours, filtration of the reaction mixture and evaporation of the filtrate yielded the desired product which after trituration with ethyl ether and isolation by filtration melted at 137°-145°.

reactant | 3-isocyanato-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | N(=C=O)C=1C=C(C=CC1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C | C14H13N5O5S
reactant | tert-butylamine | 0.8 g | C(C)(C)(C)N | C4H11N
product | 3-(3-tert-Butylureido)-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | C(C)(C)(C)NC(NC=1C=C(C=CC1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C)=O | C18H24N6O5S
